US06455550B1
A solution of 4-(2,3-dihydro-1,3-dioxo-1H-pyrrolo[3,4-c]pyridin-2-yl)-N-[[1-[(4-methoxyphenyl)methyl]cyclopentyl]carbonyl]-L-phenylalanine (30 mg, 0.057 mmol) in ethanol (4 mL) containing a few drops of TFA was hydrogenated over 10% Pd(C) (6 mg) for 18 hours. The mixture was filtered and evaporated and the residue was purified by RP-HPLC on a 4×30 cm Rainin C-18 column using a gradient of 5 to 95% acetonitrile:water containing 0.75% trifluoroacetic acid at a flow of 49 mL/min over 35 min. The peak eluting at 59.5% acetonitrile was concentrated and mixture was lyophilized to give N-[[1-[(4-methoxyphenyl)methyl]cyclopentyl]carbonyl]-4-[(3aRS,7aRS)-(octahydro-1,3-dioxo-1H-pyrrolo[3,4-c]pyridin-2-yl)]-L-phenylalanine (4.2 mg), HR FABMS: obs. mass 534.2602. Calcd. mass 534.2604 (M+H). The peak eluting at 62% acetonitrile was concentrated and the mixture lyophilzed to give 4-[(RS)-2,3,5,6,7,7a-hexahydro-1,3-dioxo-1H-pyrrolo[3,4-c]pyridin-2-yl]-N-[[1-[(4-methoxyphenyl)methyl]cyclopentyl]carbonyl]-L-phenylalanine (4.9 mg), HR FABMS: obs. mass 532.2452. Calcd. mass 532.2447 (M+H).

reactant | 4-(2,3-dihydro-1,3-dioxo-1H-pyrrolo[3,4-c]pyridin-2-yl)-N-[[1-[(4-methoxyphenyl)methyl]cyclopentyl]carbonyl]-L-phenylalanine | 0.057 mmol, 30 mg | O=C1N(C(C=2C=NC=CC21)=O)C2=CC=C(C[C@H](NC(=O)C1(CCCC1)CC1=CC=C(C=C1)OC)C(=O)O)C=C2 | C30H29N3O6
solvent | ethanol | 4 mL | C(C)O | C2H6O
catalyst | TFA | a few drops | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-[[1-[(4-methoxyphenyl)methyl]cyclopentyl]carbonyl]-4-[(3aRS,7aRS)-(octahydro-1,3-dioxo-1H-pyrrolo[3,4-c]pyridin-2-yl)]-L-phenylalanine | 4.2 mg | COC1=CC=C(C=C1)CC1(CCCC1)C(=O)N[C@@H](CC1=CC=C(C=C1)N1C(C2CNCCC2C1=O)=O)C(=O)O | C30H35N3O6
